US04207104
2-Hydrazino-3-Methoxy-5-Sulfamoylpyridine
2-Chloro-3-methoxy-5-sulfamoylpyridine (0.3 g, 1.35×10-3 mole) and hydrazine hydrate (0.53 g, approximately 0.01 mole) were added to methanol (20 ml). After refluxing overnight, the reaction mixture was stripped of methanol in vacuo to yield an oil which was cooled in an ice bath and triturated with water (5 ml). The precipitate was collected by filtration and air dried; yield, 0.22 g (75 percent).

reactant | 2-Chloro-3-methoxy-5-sulfamoylpyridine | 1.35×10-3 mole, 0.3 g | ClC1=NC=C(C=C1OC)S(N)(=O)=O | C6H7ClN2O3S
reactant | hydrazine hydrate | approximately 0.01 mole, 0.53 g | O.NN
solvent | methanol | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 2-Hydrazino-3-Methoxy-5-Sulfamoylpyridine | N(N)C1=NC=C(C=C1OC)S(N)(=O)=O | C6H10N4O3S
